US07128900B2
A boron tribromide solution (1.8 ml, 6 equivalents) is added to a well-stirred solution of 4′-methoxy-7-hydroxyflavone (3 mmol) in dichloromethane (50 ml) at −78° C. under an argon atmosphere. When the addition of the boron tribromide solution is complete, the reaction mixture is stirred at room temperature for 24 hours and introduced into an ice/water mixture (300 ml). The product is filtered off and recrystallised from ethanol/water to give 4′,7-dihydroxyflavone. 1H NMR (300 MHz, d6-DMSO): δ 10.78 (br s, OH), 10.28 (br s, OH), 7.91–6.93 (dm, 4H), 7.87 (d, 1H), 6.98 (d, 1H), 6.72 (s, 1H; 13C NMR (62.90 MHz, d6-DMSO): δ176.19 (s), 162.43 (s), 162.33 (s), 160.58 (s), 157.27 (s), 128.02 (s), 126.36 (s), 121.68 (s), 116.01 (s), 115.78 (s), 114.67 (s), 104.37(s), 102.48 (s); EI-MS (70 eV) m/e (rel. abund.)=254.24 (100). The product is yellowish and exhibits the UV absorption maximum at λ=329 nm with ε=27960 (in 2-propanol) (cf. FIG. 3).

reactant | boron tribromide | 1.8 ml, 6 equivalents | B(Br)(Br)Br | BBr3
reactant | 4′-methoxy-7-hydroxyflavone | 3 mmol | COC1=CC=C(C=2OC3=CC(=CC=C3C(C2)=O)O)C=C1 | C16H12O4
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4′,7-dihydroxyflavone | OC1=CC=C(C=2OC3=CC(=CC=C3C(C2)=O)O)C=C1 | C15H10O4
